### PR TITLE
[Merged by Bors] - feat (RingTheory/HahnSeries/Summable) : coeff function for a summable family

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces a coefficient function for summable families, and adds some basic formal sum results. 

- [x] depends on: #16871  [single summable family]
- [x] depends on: #16872 [Equiv of families]

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries/Summable.lean [hunk 1]
```diff
@@ -178,6 +189,15 @@ theorem hsum_add {s t : SummableFamily Γ R α} : (s + t).hsum = s.hsum + t.hsum
   simp only [hsum_coeff, add_coeff, add_apply]
   exact finsum_add_distrib (s.finite_co_support _) (t.finite_co_support _)
 
+theorem hsum_coeff_subset_sum {s : SummableFamily Γ R α} {g : Γ} {t : Finset α}
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Summable.lean:192]:
```suggestion
theorem hsum_coeff_eq_sum_of_subset {s : SummableFamily Γ R α} {g : Γ} {t : Finset α}
```

File: Mathlib/RingTheory/HahnSeries/Summable.lean [hunk 2]
```diff
@@ -178,6 +189,15 @@ theorem hsum_add {s t : SummableFamily Γ R α} : (s + t).hsum = s.hsum + t.hsum
...
+    (h : { a | (s a).coeff g ≠ 0 } ⊆ t) : s.hsum.coeff g = ∑ i ∈ t, (s i).coeff g := by
+  simp only [hsum_coeff, finsum_eq_sum _ (s.finite_co_support _)]
+  exact sum_subset (Set.Finite.toFinset_subset.mpr h) (by simp)
+
+theorem hsum_coeff_sum {s : SummableFamily Γ R α} {g : Γ} :
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries/Summable.lean:197]:
```suggestion
theorem hsum_coeff_eq_sum {s : SummableFamily Γ R α} {g : Γ} :
```

**Review by jcommelin — COMMENTED** [review]
LGTM, modulo minor name nitpicking.

bors d+
